US04310505
A. 6-(5-Cholesten-3β-yloxy)hexyl 2,3,4-tri-O-acetyl-1-thio-β-L-fucopyranoside
2,3,4-Tri-O-acetyl-1-thio-β-L-fucopyranose (10 mmol) is treated with 6-(5-cholesten-3β-yloxy)hexyl iodide (10 mmol) in dichloromethane (30 ml) containing triethylamine (10 mmol). The reaction takes place in 1 day at room temperature under nitrogen. The resulting solution is washed with distilled water (20 ml) and dried with anhydrous sodium sulfate. The filtered solution is concentrated to form a syrup which is put on a silica gel column and eluted with chloroform followed by 1.0% ethanol in chloroform. The fractions containing the title compound, as determined by thin layer chromatography, are pooled and evaporated to give the title compound in 61% yield [α]D -4° (c 1.5, chloroform).

reactant | 2,3,4-Tri-O-acetyl-1-thio-β-L-fucopyranose | 10 mmol | C(C)(=O)O[C@@H]1[C@@H](S)O[C@H]([C@H]([C@H]1OC(C)=O)OC(C)=O)C | C12H18O7S
reactant | 6-(5-cholesten-3β-yloxy)hexyl iodide | 10 mmol | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)OCCCCCCI | C33H57IO
reactant | triethylamine | 10 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 6-(5-Cholesten-3β-yloxy)hexyl 2,3,4-tri-O-acetyl-1-thio-β-L-fucopyranoside | 61% yield | C(C)(=O)O[C@@H]1[C@@H](SCCCCCCO[C@@H]2CC3=CC[C@H]4[C@@H]5CC[C@H]([C@@H](CCCC(C)C)C)[C@]5(CC[C@@H]4[C@]3(CC2)C)C)O[C@H]([C@H]([C@H]1OC(C)=O)OC(C)=O)C | C45H74O8S
